US07618975B2
(4-Dimethylamino-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine
To a solution of (2-methyl-quinazolin-4-yl)-(4-amino-phenyl)-methylamine (14 mg, mmol) in 1.5 mL of 37% aqoues formaldehyde solution and 10 uL of glacial acetic was added Sodium cyanoborohydride (15 mg, 0.24 mmol) and the mixture was stirred at room temperature for 2 h. The reaction mixture was quenched by adding 50 uL of 1N HCl. It was diluted with 50 mL of ethyl acetate, washed with saturated sodium bicarbonate, and followed by saturated sodium chloride. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated. The residue was purified by column chromatography (25% ethyl acetate/hexanes) on silica gel to give the title compound (12.4 mg, 0.042 mmol, 80%). 1H NMR (CDCl3): 7.71 (m, 1H), 7.50 (ddd, J=8.4, 6.9, 1.5, 1H), 7.03-7.09 (m, 3H), 6.95 (ddd, J=8.1, 6.6, 0.9, 1H), 6.70 (m, 2H), 3.57 (s, 3H), 2.99 (s, 6H), 2.71 (s, 3H).

reactant | (2-methyl-quinazolin-4-yl)-(4-amino-phenyl)-methylamine | 14 mg | CC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)N | C16H16N4
reactant | formaldehyde | C=O | CH2O
reactant | Sodium cyanoborohydride | 0.24 mmol, 15 mg | C(#N)[BH3-].[Na+]
solvent | acetic | 10 uL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
product | (4-Dimethylamino-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine | 0.042 mmol, 12.4 mg, 80% | CN(C1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C)C | C18H20N4
